US07144876B2
5-(3-Chlorothiophen-2-yl)-2-(piperidine-1-yl)-[1,3,4]oxadiazole
Piperidine-1-carboxylic acid N-(3-chlorothiophene-2-carbonyl)-hydrazide. A yellow solution of 3-chlorothiophene-2-carboxylic acid hydrazide (0.150 g, 0.852 mmol), THF (1.7 mL) and Et3N (0.12 mL, 0.852 mmol) was cooled to 0° C. and 1-piperidinecarbonyl chloride (0.106 mL, 0.852 mmol) was added dropwise. The yellow solution was equilibrated to room temperature and stirred for 18 h. The reaction solution was diluted with water (20 mL) and then extracted with ethyl acetate (30 mL). The organic layer was washed with water (15 mL), brine (10 mL), dried over MgSO4, and then concentrated to yield 0.210 g (86%) of the title compound as a white solid. 1H NMR (CDCl3): 9.29 (d, 1H, J=5.2 Hz), 7.51–7.48 (m, 2H), 7.00 (d, 1H, J=5.2 Hz), 3.45–3.43 (m, 4H), 1.64–1.60 (m, 6H).

reactant | Piperidine-1-carboxylic acid N-(3-chlorothiophene-2-carbonyl)-hydrazide | ClC1=C(SC=C1)C(=O)N(N)C(=O)N1CCCCC1 | C11H14ClN3O2S
reactant | 3-chlorothiophene-2-carboxylic acid hydrazide | 0.852 mmol, 0.150 g | ClC1=C(SC=C1)C(=O)NN | C5H5ClN2OS
reactant | Et3N | 0.852 mmol, 0.12 mL | CCN(CC)CC | C6H15N
reactant | 1-piperidinecarbonyl chloride | 0.852 mmol, 0.106 mL | N1(CCCCC1)C(=O)Cl | C6H10ClNO
solvent | water | 20 mL | O | H2O
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | 5-(3-Chlorothiophen-2-yl)-2-(piperidine-1-yl)-[1,3,4]oxadiazole | 0.210 g, 86% | ClC1=C(SC=C1)C1=NN=C(O1)N1CCCCC1 | C11H12ClN3OS
